US06573263B2
1.02 g (4.61 mmol) of 2-(1-hydroxyethyl)-5-phenylpentanoic acid are reacted analogously to Example 39A with 620 mg (4.61 mmol) of 1-hydroxy-1H-benzotriazole, 930 mg (9.22 mmol) of 4-methylmorpholine, 880 mg (4.61 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride and 1.00 g (3.84 mmol) of 6-(1-aminoethyl)-3-(4-methoxybenzyl)-1,2,4-triazin-5(4H)-one to give 2-(1-hydroxyethyl)-N-{1-[3-(4-methoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}-5-phenylpentanamide.

reactant | 2-(1-hydroxyethyl)-5-phenylpentanoic acid | 4.61 mmol, 1.02 g | OC(C)C(C(=O)O)CCCC1=CC=CC=C1 | C13H18O3
reactant | 1-hydroxy-1H-benzotriazole | 4.61 mmol, 620 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-methylmorpholine | 9.22 mmol, 930 mg | CN1CCOCC1 | C5H11NO
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 4.61 mmol, 880 mg | Cl.CN(CCCN=C=NCC)C
reactant | 6-(1-aminoethyl)-3-(4-methoxybenzyl)-1,2,4-triazin-5(4H)-one | 3.84 mmol, 1.00 g | NC(C)C=1C(NC(=NN1)CC1=CC=C(C=C1)OC)=O | C13H16N4O2
product | 2-(1-hydroxyethyl)-N-{1-[3-(4-methoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}-5-phenylpentanamide | OC(C)C(C(=O)NC(C)C=1C(NC(=NN1)CC1=CC=C(C=C1)OC)=O)CCCC1=CC=CC=C1 | C26H32N4O4
